US06544985B2
(RS)-3-Oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,4]triazol-1-yl]-phenyl}-propionic acid tert.-butyl ester
The title compound was prepared from (RS)-3-[5-(tetrahydro-pyran-2-yloxymethyl )-[1,2,4]triazol-1-yl]-benzoic acid methyl ester [prepared by the following sequence: i.) methyl 3-(1H-1,2,4-triazol-1-yl)-benzoate, [CAS-No. 167626-27-9] (39.4 g, 194 mmol) was heated in 36% formaldehyde-water (250 ml) in an autoclave for 41 h at 150° C. Cristallisation from water and ethyl acetate/hexane (1:1) yielded a light brown solid (24.3 g, 54%) mp 164° C.; ii.) The obtained material (24.3 g, 104 mmol) was reacted with 3,4-dihydro-2H -pyran (29.3 mL, 320 mmol) and cat. amount p-TsOH.H2O in dichloromethane (360 mL)/THF (300 ml) at 23° C. for 20 h. Purification by column chromatography on silica gel (toluene/ethyl acetate 1:1) gave a light brown oil.] (16.6 g, 52.3 mmol) by treatment with lithium tert.-butyl acetate according to general procedure K (method b). Obtained as a light yellow oil (14.3 g, 68%).

reactant | (RS)-3-[5-(tetrahydro-pyran-2-yloxymethyl )-[1,2,4]triazol-1-yl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)N1N=CN=C1COC1OCCCC1)=O | C16H19N3O4
reactant | methyl 3-(1H-1,2,4-triazol-1-yl)-benzoate | N1(N=CN=C1)C=1C=C(C(=O)OC)C=CC1 | C10H9N3O2
reactant | water | O | H2O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | formaldehyde water | 250 ml | C=O.O
product | (RS)-3-Oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,4]triazol-1-yl]-phenyl}-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=CN=C1COC1OCCCC1)=O)=O | C21H27N3O5
